US07157491B2
4-(4-Methoxyphenyl)-7-methylbenzofuran
A mixture of polyphosphoric acid (approx. 0.5 g) and chlorobenzene was brought to reflux and 3-(2,2-dimethoxy-ethoxy)-4′-methoxy-4-methyl-biphenyl (1.61 g, 5.33 mmol) in chlorobenzene (12 ml) was added dropwise. After 4 h the reaction was cooled, passed through a silica plug (the plug was washed with ether), and concentrated to 1.26 g (100%) of product as a light tan solid: mp 40–41° C.; 1H NMR (300 MHz, DMSO-d6): δ 2.50 (3H, s), 3.82 (3H, s), 7.03 (1H, d, J=2.2 Hz), 7.07 (2H, d, J=9.5 Hz), 7.19 (1H, d, J=8.1 Hz), 7.23 (1H, d, J=8.1 Hz), 7.56 (2H, d, J=9.5 Hz), 8.06 (1H, d, J=2.2 Hz).

reactant | 3-(2,2-dimethoxy-ethoxy)-4′-methoxy-4-methyl-biphenyl | 5.33 mmol, 1.61 g | COC(COC=1C=C(C=CC1C)C1=CC=C(C=C1)OC)OC | C18H22O4
solvent | chlorobenzene | 12 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-(4-Methoxyphenyl)-7-methylbenzofuran | COC1=CC=C(C=C1)C1=CC=C(C2=C1C=CO2)C | C16H14O2
